US09145433B2
Conc. H2SO4 was added dropwise to stirring TFA at room temperature for 5 min. 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carbonitrile (870 mg) was added all at once to the homogenous solution after fuming subsided from acid mixture. Additional TFA and conc. H2SO4 were added successively to the heterogeneous reaction mixture. After 6 h, the reaction mixture was added to ice/water and stirred. The homogeneous solution was basified with aq. NaOH (50%). The resultant heterogeneous slurry was filtered and dried. Subsequently, the white solid was purified by flash chromatography (Combiflash® companion System® with RediSep® silica gel column 24 g, 70% EtOAc/hexanes-3% MeOH/EtOH) to obtain 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carboxamide (720 mg). 1H NMR (300 MHz, DMSO-d6): δ 9.48 (s, 1H), 8.72 (dd, J=4.8, 1.6 Hz, 1H), 8.33 (s, 1H), 7.97 (dd, J=7.8, 1.7 Hz, 2H), 7.64 (d, J=6.8 Hz, 1H), 7.61-7.57 (m, 1H), 7.55 (dd, J=7.9, 4.9 Hz, 1H), 7.52-7.48 (br s, 2H), 7.26 (dd, J=7.7, 1.5 Hz, 1H), 7.10 (dd, J=9.4, 1.9 Hz, 1H). 19F NMR (282 MHz, DMSO-d6): δ −117.01 (q, J=7.5, 7.1 Hz). LCMS: rt 4.65 min (A), purity 99%, MS (m/e) 367 MH+.

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carbonitrile | 870 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C#N | C19H10ClFN4
reactant | NaOH | [OH-].[Na+]
product | 6-(2-(3-chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridine-3-carboxamide | 720 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C(=O)N | C19H12ClFN4O
